US04110468
By following serially the procedures of Examples 1 and 2 but replacing 2-mercapto-2,4,6-cycloheptatrien-1-one with an equivalent amount of 5-mercapto-7H-benzocyclohepten-7-one, 9-amino-7H-cyclohepta[c]pyridin-7-one, 5-mercapto-3H-6,7-dihydrocyclobutacyclohepten-3-one, 1-ethylamino-3H-6,7,8,9,10,11-hexahydrocycloheptacycloocten-3-one and 5-mercapto-3H-6,7,8,9,10,11,12,13-octahydrocycloheptacyclodecen-3-one, the following compounds are obtained respectively: [(7-oxo-7H-benzocyclohepten-5-yl)thio]oxo-acetic acid ethyl ester (I; R1, R5, and R6 = H; R2S--CO--COOC2H5 ; and R3 and R4 together form a --CH=CH--CH=CH-- chain), [(7-oxo-7H-cyclohepta[c]pyridin-9-yl)-amino]oxo-acetic acid ethyl ester (I; R1, R5 and R6 = H; R2 = NC2H5 --CO--COOC2H5 ; and R3 and R4 together form a --CH=CH--N=CH-- chain). [(3-oxo-3H-6,7-dihydrocyclobutacyclohepten-5-yl)thio]oxo-acetic acid ethyl ester (I; R1, R5 and R6 = H; R2 = S--CO--COOC2H5 ; and R3 and R4 together form a --CH2CH2 -- chain), [N-(3-oxo-3H-6,7,8,9,10,11-hexahydrocycloheptacycloocten-1-yl)ethylamino]-oxo-acetic acid ethyl ester (I; R1, R2 and R6 = H; R3 and R4 together form a --(CH2)6 chain; and R5 = NC2H5 --CO--COOC2H5 ) and [(3-oxo-3H- 6,7,8,9,10,11,12,13-octahydrocycloheptacyclodecen-5-yl)thio]oxo-acetic acid ethyl ester (I; R1, R5 and R6 = H; R2 = S--CO--COOC2H5 ; and R3 and R4 together form a --(CH2)8 -- chain).

reactant | 2-mercapto-2,4,6-cycloheptatrien-1-one | SC=1C(C=CC=CC1)=O | C7H6OS
reactant | 5-mercapto-7H-benzocyclohepten-7-one | SC1=CC(C=CC2=C1C=CC=C2)=O | C11H8OS
reactant | 9-amino-7H-cyclohepta[c]pyridin-7-one | NC1=CC(C=CC2=C1C=NC=C2)=O | C10H8N2O
reactant | [(7-oxo-7H-benzocyclohepten-5-yl)thio]oxo-acetic acid ethyl ester | C(C)OC(C(=O)SC1=CC(C=CC2=C1C=CC=C2)=O)=O | C15H12O4S
product | [(7-oxo-7H-cyclohepta[c]pyridin-9-yl)-amino]oxo-acetic acid ethyl ester | C(C)OC(C(=O)NC1=CC(C=CC2=C1C=NC=C2)=O)=O | C14H12N2O4
